US04752645
(C) (cis)-7-Chloro-1-[2-(dimethylamino)ethyl]-3-ethyl-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-benzazepin-2-one, monohydrochloride
To a slurry of prewashed (hexane) sodium hydride (~50% in mineral oil) (0.064 g; 1.34 mmole; 1.2 eq.) in dry dimethylformamide (10 ml) was added 7-chloro-3-ethyl-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (370 mg; 1.12 mmole). After stirring the mixture at 25° C. for 1 hour, 3.2 ml (5.6 mmole) of 1.7N N,N-dimethyl-2-chloroethylamine (in toluene) was added, and the solution was heated at 80° C. for 24 hours. The reaction was quenched with 1N hydrochloric acid, made basic with 50% sodium hydroxide solution, extracted with ethyl acetate (two times) and dried (magnesium sulfate). After solvent removal, 0.49 g of a brown oil remained. This crude product was flash chromatographed (silica gel/3:1-hexane:ethyl acetate, followed by 2:1-hexane: ethyl acetate, followed by 1:1-hexane: ethyl acetate, followed by ethyl acetate). Those fractions which contained the cis amine product were dissolved into ether. The salt was precipitated out by the dropwise addition of hydrogen chloride saturated ether solution. The resultant white solid was collected by suction-filtration, yielding 200 mg. The lower Rf trans isomer of the title compound was likewise obtained (10 mg) as well as a cis-trans mixture (50 mg), and unreacted starting material (40 mg).

reactant | (hexane) sodium hydride | 1.34 mmole, 0.064 g, 1.2 eq. | [H-].[Na+].CCCCCC
reactant | 7-chloro-3-ethyl-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 1.12 mmole, 370 mg | ClC=1C=CC2=C(CC(C(C(N2)=O)CC)C2=CC=C(C=C2)OC)C1 | C19H20ClNO2
reactant | N,N-dimethyl-2-chloroethylamine | 5.6 mmole, 1.7N, 3.2 ml | CN(C)CCCl | C4H10ClN
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (cis)-7-Chloro-1-[2-(dimethylamino)ethyl]-3-ethyl-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-benzazepin-2-one, monohydrochloride | Cl.ClC=1C=CC2=C(C[C@@H]([C@@H](C(N2CCN(C)C)=O)CC)C2=CC=C(C=C2)OC)C1 | InChI=1S/C23H29ClN2O2.ClH/c1-5-20-21(16-6-9-19(28-4)10-7-16)15-17-14-18(24)8-11-22(17)26(23(20)27)13-12-25(2)3;/h6-11,14,20-21H,5,12-13,15H2,1-4H3;1H/t20-,21+;/m0./s1
